US07141596B2
Step 8. Synthesis of N-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide
N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxy-benzenesulfonamide (10.0 mg, 0.0184 mmol) was dissolved in trifluoroacetic acid (2 mL). The reaction was heated to 170° C. in the microwave and held at that temperature for 45 seconds. The reaction was chromatographed on a 21.2 mm Luna C18 column using a 20–80% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 25 mL per minute over a 20 minute period. The major fraction was lyophilized to give a white powder (8 mg, 90%). 1H NMR (500 MHz, CD3OD): δ 7.76 (d, J=9.2 Hz, 2H), 7.42 (t, J=7.8 Hz, 2H), 7.37 (d, J=7.8 Hz, 2H), 7.24 (d, J=7.8 Hz, 2H), 7.21 (m, 1H), 7.07 (d, J=7.8 Hz, 2H), 7.03 (d, J=8.8 Hz, 2H), 4.94 (m, 1H), 4.39 (m, 1H), 3.35 (m, 2H), 3.24 (m, 2H), 2.85 (m, 2H); LCMS found for C23H22N2O6S2 (M+H)+: m/z 487.1.

reactant | N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxy-benzenesulfonamide | 0.0184 mmol, 10.0 mg | C(C)(C)(C)N1S(C(CC1=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)(=O)=O | C27H30N2O6S2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-2-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide | 8 mg, 90% | O=S1(NC(CC1C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=O | C23H22N2O6S2
